US06117881
(E)-3-[4-(2-(Tertbutoxycarbonylmethylamino)ethoxy)phenyl]acrylic acid
(E)-3-[4-(2-Methylaminoethoxy)phenyl]acrylic acid (0.8 g, 3.6 mmol) in dioxane (100 mL) was treated with NaOH (2N) (22 mL, 12 equiv.). After one hour of stirring at 70° C., ditertbutyldicarbonate (1.6 g, 2 equiv.) was added slowly. The reaction was judged to be complete after 3 hours of stirring at 70° C. After filtration of the white precipitate, the filtrate was acidified to pH=1 with HCl (1N). A new white solid precipitated out. Filtration and drying in vacuo gave the title compound (0.6 g, 50%) as white crystals.

reactant | (E)-3-[4-(2-Methylaminoethoxy)phenyl]acrylic acid | 3.6 mmol, 0.8 g | CNCCOC1=CC=C(C=C1)/C=C/C(=O)O | C12H15NO3
reactant | NaOH | 2N, 22 mL, 12 equiv. | [OH-].[Na+]
reactant | ditertbutyldicarbonate | 1.6 g, 2 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (E)-3-[4-(2-(Tertbutoxycarbonylmethylamino)ethoxy)phenyl]acrylic acid | 0.6 g, 50% | C(C)(C)(C)OC(=O)CNCCOC1=CC=C(C=C1)/C=C/C(=O)O | C17H23NO5
